US04182866
To a solution of 1 g of benzhydryl 7-thienylacetamido-3-thiobenzoylhydrazonomethyl-3-cephem-4-carboxylate in 10 ml of dioxane is added 0.28 g of DDQ, followed by stirring at room temperature for 30 minutes. The reaction mixture is filtered and the filtrate cake is washed with a small amount of dioxane. The combined filtrate is evaporated to dryness in vacuo and the residue recrystallized from ethyl acetate to give 0.6 g of benzhydryl 7-thienylacetamido-3-(5-phenyl-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate as pale yellow crystals.

reactant | benzhydryl 7-thienylacetamido-3-thiobenzoylhydrazonomethyl-3-cephem-4-carboxylate | 1 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=NNC(C2=CC=CC=C2)=S)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H28N4O4S3
reactant | DDQ | 0.28 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | benzhydryl 7-thienylacetamido-3-(5-phenyl-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.6 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H26N4O4S3
